US04281188
4 g (0.011 M) of (S)-7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one are dissolved in 35 ml of ice-cold concentrated hydrochloric acid at -10° C. and chlorine gas is conducted in at -10° C. for 1 hour. The mixture is concentrated at 0°-5° C. using a high vacuum cooling trap and a soda lime tower under a high vacuum (1-2 mmHg). The residue is made alkaline with a mixture of ice and 10% sodium bicarbonate solution. The mixture is extracted with methylene chloride and the extract is dried over sodium sulphate, filtered and concentrated. The remaining oil is purified on a 300 g silica gel column using methylene chloride and then methylene chloride/ethyl acetate (20:1) as the eluting agent. This operation is repeated once on a 120 g silica gel column using methylene chloride and then methylene chloride/ethyl acetate (20:1) as the eluting agent. After crystallisation from ethyl acetate/ether, there is obtained (S)-7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one which melts at 222°-226° C.; [α]25D =+92° (in methylene chloride; 0.5%).

reactant | (S)-7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | 0.011 M, 4 g | NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)F)C1 | C17H16FN3O
reactant | chlorine | ClCl | Cl2
product | (S)-7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)F)C1Cl | C17H15ClFN3O
